US07419997B2
N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-3-methylbenzamide was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine and m-toluoyl chloride in a similar manner as described above to give a tan solid (51% yield). 1H-NMR (CDCl3): δ 8.95 (s, 1H), 7.63-7.59 (m, 2H), 7.55 (m, 1H), 7.33 (m, 2H), 7.23 (m, 1H), 7.17 (d, 1H), 6.38 (d, 1H), 5.32 (m, 1H), 2.72 (m, 2H), 2.40 (s, 3H), 2.31 (m, 1H), 1.98 (m, 3H); MS m/z 383 (M−1).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | m-toluoyl chloride | C1(=CC(=CC=C1)C(=O)Cl)C | C8H7ClO
product | N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-3-methylbenzamide | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC(C1=CC(=CC=C1)C)=O | C20H19BrN2O
